US06235763B1
33.1 ml of a 2M solution of lithium diisopropylamide in THF/heptane/ethylbenzene are added dropwise to 300 ml of dry tetrahydrofuran (THF) under argon. At −70° C., 12 g of N′-(5-chloroindan-1-ylidene)-N,N-dimethylhydrazine, dissolved in 100 ml of dry THF, are added dropwise to this solution. After the reaction mixture has been stirred at −70° C. for 1 h and at −40° C. for a further 3 h, 3.882 ml of methyl iodide are added dropwise and the mixture is stirred further overnight. 200 ml of water are added dropwise to the reaction mixture which has warmed to room temperature; the THF is removed in vacuo, and the residue is extracted with ethyl acetate. The ethyl acetate extract is treated with active carbon, dried over sodium sulfate, filtered, concentrated in vacuo and chromatographed on silica gel with ethyl acetate/heptane ½. N′-(5-chloro-2-methylindan-1-ylidene)-N,N-dimethylhydrazine is obtained as an oil.

reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | N′-(5-chloroindan-1-ylidene)-N,N-dimethylhydrazine | 12 g | ClC=1C=C2CCC(C2=CC1)=NN(C)C | C11H13ClN2
reactant | methyl iodide | 3.882 ml | CI | CH3I
reactant | water | 200 ml | O | H2O
solvent | THF heptane ethylbenzene | O1CCCC1.CCCCCCC.C(C)C1=CC=CC=C1
solvent | THF | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | N′-(5-chloro-2-methylindan-1-ylidene)-N,N-dimethylhydrazine | ClC=1C=C2CC(C(C2=CC1)=NN(C)C)C | C12H15ClN2
